US05597823
Ethyl 3-(N-methylamino)thieno[2,3]pyrazine-2-carboxylate
To a stirred suspension of neat NaH (0.82 g, 3.40 mmol) in 10 ml THF at -78° C. was canulated a cold (-78° C.) 20 ml THF solution of ethyl 3-aminothieno[2,3-b]pyrazine-2-carboxylate (0.690 g, 3.09 mmol). The reaction mixture was allowed to warm to rt, stir for 2 h and was then treated with iodomethane (0.460 g, 3.24 mmol). After stirring for 12 h at rt, the mixture was diluted with 5 ml MeOH and concentrated. Purification by column chromatography on silica gel eluting first with 10:1 then 5:1 hexanes:ethyl acetate gave the title compound (0.610 g, 84%) as a yellow solid. 1H NMR (300 MHz, CDCl3) δ1.40 (t, 3H), 3.60 (d, 3H), 4.36 (q, 2H), 7.48 (br s, 2H), 8.54 (d, 1H), 8.57 (d, 1H). MS (DCI/NH3) m/e 238 (M+H)+.

reactant | NaH | 3.40 mmol, 0.82 g | [H-].[Na+]
reactant | ethyl 3-aminothieno[2,3-b]pyrazine-2-carboxylate | 3.09 mmol, 0.690 g | NC1=C(N=C2C(=N1)SC=C2)C(=O)OCC | C9H9N3O2S
reactant | iodomethane | 3.24 mmol, 0.460 g | IC | CH3I
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | MeOH | 5 ml | CO | CH4O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | Ethyl 3-(N-methylamino)thieno[2,3]pyrazine-2-carboxylate | 0.610 g, 84% | CNC=1C(=NC2=C(N1)SC=C2)C(=O)OCC | C10H11N3O2S
